US04588732
5-[p-(2-Ethoxycarbonylprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine (0.33 g) in 10 ml of 0.5N sodium hydroxide is refluxed for 3 hours, cooled and extracted with ether. The aqueous phase is adjusted to pH=6 and the resulting solid is filtered off to yield 5-[p-(2-carboxyprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine.

reactant | 5-[p-(2-Ethoxycarbonylprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine | 0.33 g | C(C)OC(=O)C(=CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1)C | C21H22N2O2
solvent | sodium hydroxide | 0.5N, 10 ml | [OH-].[Na+]
product | 5-[p-(2-carboxyprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine | C(=O)(O)C(=CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1)C | C19H18N2O2
